US06723722B1
A solution of 1-amino-4-benzyloxycarbonyl-2-piperazinone (21.92 g) and 1-(4-pyridyl)-4-piperidone (15.51 g) in ethanol (500 ml) was dehydrated using a Soxlet extractor packed with molecular sieves 4A while refluxing for 24 hours. The reaction mixture was concentrated to obtain a residue, which was dissolved in methanol (300 ml) and combined with acetic acid (18.26 g) with cooling on ice followed by sodium cycanoborohydride (7.16 g) and then stirred at 0° C. for 3 hours. The reaction mixture was concentrated, and the residue was combined with a 1N aqueous solution of sodium hydroxide, and extracted with methylene chloride. The extract was washed with water and brine, dried and concentrated to obtain 4-benzyloxycarbonyl-1-[1-(4-pyridyl)-4-piperidinylamino]-2-piperazinone (25.29 g) as a pale yellow amorphous material.

reactant | 1-amino-4-benzyloxycarbonyl-2-piperazinone | 21.92 g | NN1C(CN(CC1)C(=O)OCC1=CC=CC=C1)=O | C12H15N3O3
reactant | 1-(4-pyridyl)-4-piperidone | 15.51 g | N1=CC=C(C=C1)N1CCC(CC1)=O | C10H12N2O
reactant | acetic acid | 18.26 g | C(C)(=O)O | C2H4O2
reactant | sodium | [Na] | Na
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | methanol | 300 ml | CO | CH4O
product | 4-benzyloxycarbonyl-1-[1-(4-pyridyl)-4-piperidinylamino]-2-piperazinone | 25.29 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)NC1CCN(CC1)C1=CC=NC=C1)=O | C22H27N5O3
